US08835628B2
4-(2,4-dimethoxyphenylcarbonyl)-2-ethyl-8-(prop-1-enyl)-2H-benzo[b][1,4]oxazin-3(4H)-one
Procedure & NMR Data: 162 mg (2.5 eq, 0.8 mmol) of 2,4-Dimethoxybenzoyl chloride was added to a mixture of 49 mg (4 eq, 1.28 mmol) of NaH and 73 mg (0.32 mmol) of oxazinone P2 in THF (14 mL). 109 mg of P9 were obtained, yield 84%.

reactant | 2,4-Dimethoxybenzoyl chloride | 0.8 mmol, 2.5 eq | COC1=C(C(=O)Cl)C=CC(=C1)OC | C9H9ClO3
reactant | NaH | 1.28 mmol, 49 mg, 4 eq | [H-].[Na+]
reactant | oxazinone | 0.32 mmol, 73 mg | O1NC(CC=C1)=O | C4H5NO2
reactant | THF | 14 mL | C1CCOC1 | C4H8O
product | 4-(2,4-dimethoxyphenylcarbonyl)-2-ethyl-8-(prop-1-enyl)-2H-benzo[b][1,4]oxazin-3(4H)-one | yield 84% | COC1=C(C=CC(=C1)OC)C(=O)N1C2=C(OC(C1=O)CC)C(=CC=C2)C=CC | C22H23NO5
